US09034866B2
Synthesis of 1-(but-3-yn-1-yloxy)-4-iodo-2-nitrobenzene
A mixture of 1-fluoro-4-iodo-2-nitro-benzene (5.0 g, 0.02 mol), 3-butyn-1-ol (1.57 ml, 0.02 mol) and potassium carbonate (2.86 g, 0.02 mol) in N,N-dimethylformamide (20 ml) was heated to 100° C. for 18 hours. After cooling the mixture was distributed between ethyl acetate (400 ml) and water (100 ml). The organic layer was separated, washed with water (2×100 ml) and brine (100 ml), dried over MgSO4, filtered and pre-absorbed onto a small amount of silica. Purification by FCC (silica, 0-15% ethyl acetate in heptanes) provided 3.7 g (56%) of the title compound. 1H NMR (250 MHz, CDCl3) 8 ppm 2.06 (1H, t, J=2.66 Hz), 2.75 (2H, td, J=7.16, 2.74 Hz), 4.22 (2H, t, J=7.08 Hz), 6.88 (1H, d, J=8.83 Hz), 7.81 (1H, dd, J=8.83, 2.28 Hz), 8.11 (1H, d, J=2.28 Hz).

reactant | 1-fluoro-4-iodo-2-nitro-benzene | 0.02 mol, 5.0 g | FC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
reactant | 3-butyn-1-ol | 0.02 mol, 1.57 ml | C(CC#C)O | C4H6O
reactant | potassium carbonate | 0.02 mol, 2.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-(but-3-yn-1-yloxy)-4-iodo-2-nitrobenzene | 3.7 g, 56% | C(CC#C)OC1=C(C=C(C=C1)I)[N+](=O)[O-] | C10H8INO3
